US08431575B2
To a solution of 4-{6-butyl-5-[4-cyclohexyloxy-3-(1-methyl-1H-pyrazol-4-yl)-phenyl]-pyridazin-3-yloxy}-piperidine-1-carboxylic acid tert-butyl ester (0.109 mmol, 64.1 mg) in MeOH (0.5 mL) was added 4 N HCl in dioxane (0.5 mL), and the reaction mixture was stirred for 3 h. The organic solvents were removed in vacuo and the residue was triturated with anhydrous diethyl ether and hexanes. The green-yellow solid was dried overnight under high vacuum to provide 3-butyl-4-[4-cyclohexyloxy-3-(1-methyl-1H-pyrazol-4-yl)-phenyl]-6-(piperidin-4-yloxy)-pyridazine dihydrochloride (61.3 mg).

reactant | 4-{6-butyl-5-[4-cyclohexyloxy-3-(1-methyl-1H-pyrazol-4-yl)-phenyl]-pyridazin-3-yloxy}-piperidine-1-carboxylic acid tert-butyl ester | 0.109 mmol, 64.1 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1N=NC(=C(C1)C1=CC(=C(C=C1)OC1CCCCC1)C=1C=NN(C1)C)CCCC | C34H47N5O4
reactant | HCl | 4 N | Cl | ClH
solvent | MeOH | 0.5 mL | CO | CH4O
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | 3-butyl-4-[4-cyclohexyloxy-3-(1-methyl-1H-pyrazol-4-yl)-phenyl]-6-(piperidin-4-yloxy)-pyridazine dihydrochloride | 61.3 mg | Cl.Cl.C(CCC)C=1N=NC(=CC1C1=CC(=C(C=C1)OC1CCCCC1)C=1C=NN(C1)C)OC1CCNCC1 | InChI=1S/C29H39N5O2.2ClH/c1-3-4-10-27-25(18-29(33-32-27)36-24-13-15-30-16-14-24)21-11-12-28(35-23-8-6-5-7-9-23)26(17-21)22-19-31-34(2)20-22;;/h11-12,17-20,23-24,30H,3-10,13-16H2,1-2H3;2*1H
